US06229020B1
Synthesis of 3-(2-nitro-benzo[d]phenyl)-2-methyl-2-propenoic acid ethyl ester
To 200 ml of benzene, 9.3 g (46 mmol) of 3-nitro-2-naphtaldehyde and 17.6 g (48.5 mmol) of Wittig reagent (carbethoxy ethylidene triphenylphosphorane) (manufactured by Aldrich Chemical Co., Inc.) were added, and the resulting mixture was stirred at room temperature for one night. After the completion of the reaction was verified by TLC, the reaction liquid was concentrated, whereby a crude product was obtained. This crude product was refined by a column chromatography (aminopropyl-modified silica gel (Fuji Silysia Chem. Co., NH-DM); developing solvent: hexane/ethyl acetate=1/1), whereby 13.0 g of the aimed compound were obtained as a crystal (yield: 96%).

reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | 3-nitro-2-naphtaldehyde | 46 mmol, 9.3 g | [N+](=O)([O-])C=1C(=CC2=CC=CC=C2C1)C=O | C11H7NO3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-(2-nitro-benzo[d]phenyl)-2-methyl-2-propenoic acid ethyl ester | 13.0 g | C(C)OC(C(=CC1=CC=C2C(=C1)C=CC(=C2)[N+](=O)[O-])C)=O | C16H15NO4
